US07704996B2
1-(4-aminomethyl-4-phenylpiperidin-1-yl)-ethanone hydrochloride
To a solution of (1-acetyl-4-phenylpiperidin-4-ylmethyl)carbamic acid tert-butyl ester in ether is added 4 N HCl in 1,4-dioxane. The reaction mixture is stirred at room temperature for 1 h, and concentrated in vacuo. The resulting solid is washed with ether to give the title compound, which is directly used for the next reaction without further purification.

reactant | (1-acetyl-4-phenylpiperidin-4-ylmethyl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1(CCN(CC1)C(C)=O)C1=CC=CC=C1)=O | C19H28N2O3
reactant | HCl | 4 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-aminomethyl-4-phenylpiperidin-1-yl)-ethanone hydrochloride | Cl.NCC1(CCN(CC1)C(C)=O)C1=CC=CC=C1 | InChI=1S/C14H20N2O.ClH/c1-12(17)16-9-7-14(11-15,8-10-16)13-5-3-2-4-6-13;/h2-6H,7-11,15H2,1H3;1H
